US06358973B1
3-Cyclopentyl-2-(3-methoxy-phenyl)-propionitrile
By working in a way similar to that described in example 2 but using toluen-4-sulphonic acid cyclopentylmethyl ester (5.09 g, 20 mmoles), obtained as described in example 6, 3-methoxy-phenyl-acetonitrile (2.94 g, 20 mmoles), NaH (55-65%, 880 mg, 22 mmoles) and DMF (25 ml), 2.3 g of the title compound were obtained (yield: 50.1%).

reactant | toluen-4-sulphonic acid cyclopentylmethyl ester | 20 mmoles, 5.09 g | C1(CCCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O3S
reactant | 3-methoxy-phenyl-acetonitrile | 20 mmoles, 2.94 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 22 mmoles, 880 mg | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-Cyclopentyl-2-(3-methoxy-phenyl)-propionitrile | 2.3 g, yield: 50.1% | C1(CCCC1)CC(C#N)C1=CC(=CC=C1)OC | C15H19NO
